US05306728
Production of 3-(3-thienyloxy)propanol
68 mg of sodium was added to 10 ml of 1,3-propandiol, and the mixture was stirred at room temperature for 1 hour. The reaction solution was warmed to 70° C., and to this solution were added, 126 μl of 3-bromothiophene, 13 mg of copper(I) iodide and 16 mg of copper(II) oxide. The mixture was heated at 150° C. with stirring for 20 hours, and then poured into the ice-cold water. The resulting solution was neutralized with diluted hydrochloric acid, and extracted with ethyl ether. The extract was worked up in a customary manner, and the product was purified by medium-pressure liquid chromatography [silica gel column, hexane ethyl acetate=20/1→5/1] to give 49 mg of the captioned compound as a white crystal.

reactant | sodium | 68 mg | [Na] | Na
reactant | 3-bromothiophene | 126 μl | BrC1=CSC=C1 | C4H3BrS
reactant | hydrochloric acid | Cl | ClH
reactant | 1,3-propandiol | 10 ml | C(CCO)O | C3H8O2
catalyst | copper(I) iodide | 13 mg | [Cu]I
catalyst | copper(II) oxide | 16 mg | [Cu]=O
product | 3-(3-thienyloxy)propanol | 49 mg | S1C=C(C=C1)OCCCO | C7H10O2S
